US08071584B2
5-Bromo-4-fluoro-1H-indole-7-carboxylic acid
DDQ (17 mg, 0.075 mmol) was added to a solution of 5-bromo-4-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid (17 mg, 0.066 mmol) in CHCl3 (2 mL) at room temperature. The reaction was stirred for 5 h and filtered. The precipitate was washed with CHCl3, and the filtrate was evaporated, giving the title compound.

reactant | DDQ | 0.075 mmol, 17 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | 5-bromo-4-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid | 0.066 mmol, 17 mg | BrC=1C(=C2CCNC2=C(C1)C(=O)O)F | C9H7BrFNO2
solvent | CHCl3 | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-Bromo-4-fluoro-1H-indole-7-carboxylic acid | BrC=1C(=C2C=CNC2=C(C1)C(=O)O)F | C9H5BrFNO2
